US04175193
2-Amino-4-hydroxyquinoline
Repetition of this reaction but replacing triethylamine with N-methylmorpholine, N,N-dimethylaniline, tri-n-butylamine, N-decyl dimethylamine, N-hexyl dimethylamine, sodamide, triphenylmethyl sodium, sodium hydride, potassium ethoxide, metallic sodium, or potassium hydroxide, affords the same product.

reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | tri-n-butylamine | C(CCC)N(CCCC)CCCC | C12H27N
reactant | N-decyl dimethylamine | C(CCCCCCCCC)N(C)C | C12H27N
reactant | N-hexyl dimethylamine | C(CCCCC)N(C)C | C8H19N
reactant | sodamide | [NH2-].[Na+]
reactant | triphenylmethyl sodium | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[Na]
reactant | sodium hydride | [H-].[Na+]
reactant | potassium ethoxide | [O-]CC.[K+]
reactant | sodium | [Na] | Na
reactant | potassium hydroxide | [OH-].[K+]
product | 2-Amino-4-hydroxyquinoline | NC1=NC2=CC=CC=C2C(=C1)O | C9H8N2O
